US05216173
Preparation of 1,3-Dihydro-1,3-dioxo-2H-isoindole-2-carbonitrile (N-Cyanophthalimide)
To a 25 mL round-bottomed flask was added phthalimide (1.47 g, 10.0 mmol), cyanogen bromide (1.27 g, 12.0 mmol), and 10 mL of reagent grade acetone. The resulting mixture was cooled using an ice/salt bath while triethylamine (1.8 mL, 12.8 mmol) was added dropwise over a 2 minute period. After 15 minutes, the mixture was transferred to a separatory funnel and partitioned between ethyl acetate and water. The organic phase was washed with water, saturated brine, dried (MgSO4), and filtered. The solution was decolorized with activated charcoal, and concentrated to give a brown solid. This material was recrystallized from ethyl acetate to give 1.32 g (77%) of a brown crystalline solid, mp 189°-191° C. (reported in Zh. Org. Khim. 1977, 13, 968 as 190° C.): IR (nujol) 2258 (nitrile), 1755 (carbonyl) cm-1 ; 1H NMR (200 MHz, DMSO) δ 8.05-8.15 (m, 4); 13C NMR (50 MHz, DMSO) δ 162.61, 136.35, 130.76, 125.03, 102.86.

reactant | phthalimide | 10.0 mmol, 1.47 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | cyanogen bromide | 12.0 mmol, 1.27 g | N#CBr | CBrN
reactant | triethylamine | 12.8 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 1,3-Dihydro-1,3-dioxo-2H-isoindole-2-carbonitrile | 1.32 g, 77% | O=C1N(C(C2=CC=CC=C12)=O)C#N | C9H4N2O2
